US07589206B2
3-Methyl-7-morpholin-4-yl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-yl)-amide hydrochloride salt
Prepared in a similar manner to Example 11 (c) from 7-chloro-3-methyl-4-(tetrahydro-pyran-4-ylcarbamoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester and morpholine (71 mg) except that the hydrochloride salt was formed using methanol instead of dichloromethane as solvent to give the title compound (40 mg).

reactant | 7-chloro-3-methyl-4-(tetrahydro-pyran-4-ylcarbamoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(NC2CCOCC2)=O)Cl)C | C19H24ClN3O4
reactant | morpholine | 71 mg | N1CCOCC1 | C4H9NO
solvent | methanol | CO | CH4O
product | 3-Methyl-7-morpholin-4-yl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-yl)-amide hydrochloride salt | 40 mg | Cl.O1CCC(CC1)NC(=O)C=1C2=C(C(=NC1)N1CCOCC1)NC=C2C | InChI=1S/C18H24N4O3.ClH/c1-12-10-19-16-15(12)14(18(23)21-13-2-6-24-7-3-13)11-20-17(16)22-4-8-25-9-5-22;/h10-11,13,19H,2-9H2,1H3,(H,21,23);1H
